US04618708
3-ethylamino 2-benzyl propanoyl glycine benzyl ester (Derivative 17)
4 g (13 mmoles) of N-(2-benzyl propenoyl)-glycine p.fluorobenzyl ester, 14, are dissolved in 15 ml of pyridine. 1.02 g (13 mmoles) of ethylamine in solution in the pyridine are added. The solution is heated to 120° C. for 2 hours. At the end of the reaction, the solution is concentrated to 5 ml, and 50 ml of ether are added. A white product precipitates. It is filtered, washed with water, and then with ether. It is recrystallized in a 50/50 CH3OH/H2O mixture. White crystals are obtained.

reactant | N-(2-benzyl propenoyl)-glycine | 13 mmoles, 4 g | C(C1=CC=CC=C1)C(C(=O)NCC(=O)O)=C | C12H13NO3
reactant | ethylamine | 13 mmoles, 1.02 g | C(C)N | C2H7N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-ethylamino 2-benzyl propanoyl glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(CNCC)CC1=CC=CC=C1)=O)=O | C21H26N2O3
